US06340759B1
(284-4) 2-Cyanoethyl-1-cyanothiophene
2-Bromomethyl-3-cyanothiophene (2.746 g) was dissolved in toluene (40 ml), followed by the addition of a solution of sodium cyanide (2.002 g)/water (15 ml), and the mixture was stirred at 80° C. overnight. The reaction mixture was diluted with ethyl acetate and washed with an aqueous solution of saturated sodium bicarbonate, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a pale yellow solid (823 mg, yield; 43%).

reactant | 2-Bromomethyl-3-cyanothiophene | 2.746 g | BrCC=1SC=CC1C#N | C6H4BrNS
reactant | sodium cyanide | 2.002 g | [C-]#N.[Na+]
reactant | water | 15 ml | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Cyanoethyl-1-cyanothiophene | 823 mg, yield; 43% | C(#N)CCC=1S(C=CC1)C#N | C8H8N2S
